US08383827B2
Titanium isopropoxide (1.16 mL, 3.96 mmol) was added to a mixture of 2-Chloro-4-(5-formyl-pyridin-3-yl)-benzonitrile (480 mg, 1.98 mmol) and methanesulfonamide (188 mg, 1.98 mmol) in toluene (15 mL) at room temperature. The resulting mixture was refluxed for 2 h. After concentration, the residue was dissolved in THF (10 mL) and cooled to −40° C. A solution of c-PrMgBr (0.5 M in THF, 11.9 mL, 5.93 mmol) was added dropwise and the resulting mixture was stirred at −36° C. for 1 h. The reaction was quenched by addition of saturated NH4Cl solution. The resulting mixture was filtered, and the organic layer was separated. After concentration, the residue was purified by flash column (MeOH—CH2Cl2, v/v, 0-3%) to give N-((5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopropyl)methyl)methanesulfonamide (351 mg, 49%); ESI-MS m/z: 362 [M+1]+, 1HNMR (MeOD, 400 MHz) δ 8.83 (d, J=2.0 Hz, 1H), 8.69 (d, J=2.0 Hz, 1H), 8.24 (t, J=2.0 Hz, 1H), 7.93 (4H, s), 3.96 (d, J=9.2 Hz, 1H), 3.06-2.93 (m, 2H), 1.35-1.30 (m, 1H), 1.30 (t, J=7.2 Hz, 1H), 0.81-0.76 (m, 1H), 0.67-0.61 (m, 2H), 0.54-0.49 (m, 1H). Enantiomers were separated by chiral HPLC (Chiralpak IA-H column, EtOH/Heptane, v/v, 60/40) to enantiomer 1 (1st peak, t=12.46 min), enantiomer 2 (2nd peak, t=17.09 min).

reactant | 2-Chloro-4-(5-formyl-pyridin-3-yl)-benzonitrile | 1.98 mmol, 480 mg | ClC1=C(C#N)C=CC(=C1)C=1C=NC=C(C1)C=O | C13H7ClN2O
reactant | methanesulfonamide | 1.98 mmol, 188 mg | CS(=O)(=O)N | CH5NO2S
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Titanium isopropoxide | 3.96 mmol, 1.16 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-((5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopropyl)methyl)methanesulfonamide | 351 mg, 49% | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(NS(=O)(=O)C)C1CC1 | C17H16ClN3O2S
